US06528525B1
(d) Ethyl 2-(4-hydroxybenzyl)-4-phenoxybutyrate
In a similar manner to that described in Reference example 2(b), a reaction was carried out using diethyl 2-(4-methoxymethoxybenzyl)-2-(2-phenoxyethyl)malonate (1.71 g) and potassium hydroxide and the reaction mixture was treated to afford the desired compound (1.25 g) as a syrup.

reactant | diethyl 2-(4-methoxymethoxybenzyl)-2-(2-phenoxyethyl)malonate | 1.71 g | COCOC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)CCOC2=CC=CC=C2)C=C1 | C24H30O7
reactant | potassium hydroxide | [OH-].[K+]
product | Ethyl 2-(4-hydroxybenzyl)-4-phenoxybutyrate | 1.25 g | OC1=CC=C(CC(C(=O)OCC)CCOC2=CC=CC=C2)C=C1 | C19H22O4
